US07622483B2
Benzyl-(5,6-diethyl-indan-2-yl)-amine
N-(5,6-Diethyl-indan-2-yl)-benzamide (3.30 g) is dissolved in dry THF (100 mL). Lithium aluminium hydride, 1M in THF (22.52 ml) is then added dropwise. The reaction mixture is stirred at 50° C. The reaction is shown to be complete by TLC after 6 hours. The reaction mixture is allowed to cool, poured slowly into ice-water (200 mL) and extracted with diethyl ether (2×150 mL). The organic layer is dried over MgSO4, filtered and the solvent is removed in vacuo. The product is not purified further. TLC (silica, n-hexane/ethyl acetate 2:1 Rf=0.20).

reactant | N-(5,6-Diethyl-indan-2-yl)-benzamide | 3.30 g | C(C)C=1C=C2CC(CC2=CC1CC)NC(C1=CC=CC=C1)=O | C20H23NO
reactant | Lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 22.52 ml | C1CCOC1 | C4H8O
product | Benzyl-(5,6-diethyl-indan-2-yl)-amine | C(C1=CC=CC=C1)NC1CC2=CC(=C(C=C2C1)CC)CC | C20H25N
